US06313122B1
A. 2-Nitro-N-(4-bromophenyl)benzamide
Using the procedure described in Example 93, Part A, 4-bromoaniline (11.6 mmol) and 2-nitrobenzoyl chloride (12.8 mmol) yielded 3.46 g (93%) of the title compound.

reactant | 4-bromoaniline | 11.6 mmol | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2-nitrobenzoyl chloride | 12.8 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-(4-bromophenyl)benzamide | 3.46 g, 93% | [N+](=O)([O-])C1=C(C(=O)NC2=CC=C(C=C2)Br)C=CC=C1 | C13H9BrN2O3
